US05362744
(±)N'-(2,4-Difluorophenyl)-N-phenyl-N-[2-[8-[(tetrahydro-2H-pyran-2 -yl)oxy]octyl]-2H-tetrazol-5-yl]-urea
To a stirred, cold (-78° C.) solution of (±)N-phenyl-2-[8-[(tetrahydro-2H-pyran-2-yl) oxy]octyl]-2H-tetrazol-5-amine (0.6161 9, 0.001650 mol) in anhydrous tetrahydrofuran (20 mL) was added a 1.6M solution of n-butyl lithium in hexanes (1.0 mL, 0.0016 mol) under a nitrogen atmosphere, and the mixture was stirred. After 2.5 hours, 2,4-difluorophenyl isocyanate (0. 195 mL, 0. 00165 mol) was added dropwise, and the mixture was stirred. After 3 hours the mixture was allowed to warm to room temperature and then stirred 1.5 days. The mixture was poured into water and extracted with ethyl acetate. The organic layer was washed with saturated sodium chloride, dried (Na2SO4), and rotoevaporated to an oil. The oil was chromatographed on silica gel (120 g, 230-400 mesh) using chloroform-diethyl ether (24:1, 13×100 mL) as eluent. Fractions containing product were rotoevaporated from diethyl ether to give the title compound as a yellow oil. The oil was dried in vacuo, yield 0.5406 g (64%). 1H NMR (CDC13): δ 10.4 (br s, 1H), 8.3 (m, 1H), 7.5 (m, 3H), 7.4 (d, 2H), 6.9 (m, 2H), 4.6 (m, 1H), 4.5 (t, 2H), 3.9 (m, 1H), 3.7 (m, 1H), 3.5 (m, 1H), 3.4 (m, 1H), 2.0 (m, 2H), 1.5-1.9 (m, 9H), 1.3 (m, 7H).

reactant | (±)N-phenyl-2-[8-[(tetrahydro-2H-pyran-2-yl) oxy]octyl]-2H-tetrazol-5-amine | 0.001650 mol | C1(=CC=CC=C1)NC=1N=NN(N1)CCCCCCCCOC1OCCCC1 | C20H31N5O2
reactant | n-butyl lithium | C(CCC)[Li]
reactant | 2,4-difluorophenyl isocyanate | 195 mL | FC1=C(C=CC(=C1)F)N=C=O | C7H3F2NO
reactant | water | O | H2O
solvent | tetrahydrofuran | 20 mL | O1CCCC1 | C4H8O
product | (±)N'-(2,4-Difluorophenyl)-N-phenyl-N-[2-[8-[(tetrahydro-2H-pyran-2 -yl)oxy]octyl]-2H-tetrazol-5-yl]-urea | FC1=C(C=CC(=C1)F)NC(N(C=1N=NN(N1)CCCCCCCCOC1OCCCC1)C1=CC=CC=C1)=O | C27H34F2N6O3
